US08802697B2
Synthesis of 6-bromo-7-methoxyquinazolin-2-ol
A mixture of 2-amino-5-bromo-4-methoxybenzaldehyde (3 g, 13.1 mmol) and urea (12 g, 196.5 mmol) was stirred at 180° C. for 2 h. LCMS showed the reaction was completed. The reaction mixture was cooled to RT and washed with water (3×100 mL). The precipitate was collected and dried to give the title compound (3 g, crude) as a yellow solid. MS (ES+) C8H7BrN2O2 requires: 254, 256. found: 255, 257 [M+H]+.

reactant | 2-amino-5-bromo-4-methoxybenzaldehyde | 13.1 mmol, 3 g | NC1=C(C=O)C=C(C(=C1)OC)Br | C8H8BrNO2
reactant | urea | 196.5 mmol, 12 g | NC(=O)N | CH4N2O
product | 6-bromo-7-methoxyquinazolin-2-ol | 3 g | BrC=1C=C2C=NC(=NC2=CC1OC)O | C9H7BrN2O2
